US04050998
1.0 g. of 3-methoxy-17-ethylenedioxy-1,3,5(10)-estratriene in 10 ml. of ethanol is added to 200 ml. of liquid ammonia, 2 g. of lithium chloride, and electrolyzed for 1 hour at 1 ampere on a tungsten carbide electrode in a cell divided by a cation exchanger membrane. After the mixture has been worked up, 0.9 g. of 3-methoxy-17-ethylenedioxy-2,5(10)-estradiene is produced, m.p. 115°-120° C.

reactant | 3-methoxy-17-ethylenedioxy-1,3,5(10)-estratriene | COC1=CC=2CC[C@H]3[C@@H]4CC5C([C@@]4(C)CC[C@@H]3C2C=C1)OCCO5 | C21H28O3
reactant | ammonia | N | H3N
reactant | lithium chloride | [Cl-].[Li+]
catalyst | tungsten carbide | [C-]#[W]
solvent | ethanol | C(C)O | C2H6O
product | 3-methoxy-17-ethylenedioxy-2,5(10)-estradiene | COC=1CC=2CC[C@H]3[C@@H]4CC5C([C@@]4(C)CC[C@@H]3C2CC1)OCCO5 | C21H30O3
